US07943609B2
Lithium hydroxide hydrate (5.3 g, 126 mmol) was added to a solution of 3-{2-[(acetyloxy)methyl]-7-bromo-1H-imidazo[4,5-c]quinolin-1-yl}butyl acetate (9.14 g, 21.0 mmol) in methanol (150 mL). The resulting mixture was stirred for two days at room temperature and filtered. The methanol was removed from the filtrate under reduced pressure. The crude product mixture was partitioned between dichloromethane and 10% aqueous sodium carbonate. The aqueous fraction was extracted with dichloromethane, and the combined organic fractions were concentrated under reduced pressure. The resulting solid was triturated with acetonitrile, isolated by filtration, and washed with cold acetonitrile to provide 2.13 g of 3-[7-bromo-2-(hydroxymethyl)-1H-imidazo[4,5-c]quinolin-1-yl]butan-1-ol. A portion of this material was mixed with material from a separate run.

reactant | Lithium hydroxide hydrate | 126 mmol, 5.3 g | O.[OH-].[Li+]
reactant | 3-{2-[(acetyloxy)methyl]-7-bromo-1H-imidazo[4,5-c]quinolin-1-yl}butyl acetate | 21.0 mmol, 9.14 g | C(C)(=O)OCCC(C)N1C(=NC=2C=NC=3C=C(C=CC3C21)Br)COC(C)=O | C19H20BrN3O4
solvent | methanol | 150 mL | CO | CH4O
product | 3-[7-bromo-2-(hydroxymethyl)-1H-imidazo[4,5-c]quinolin-1-yl]butan-1-ol | 2.13 g | BrC=1C=CC=2C3=C(C=NC2C1)N=C(N3C(CCO)C)CO | C15H16BrN3O2
